US06800627B1
7-Bromo 1,2,3,4-tetrahydropyrazino[1,2-a]indole
Ethyl 6-bromo-1-cyanomethylindole-2-carboxylate (3.1 g, 10 mmol) was added portionwise over 2-3 min to a stirred suspension of lithium aluminium hydride (0.95 g, mmol) in ether (100 mL) at room temperature under Ar. The reaction was then heated to reflux and stirred for 18 h. After allowing to cool to room temperature the mixture was poured slowly into stirred saturated aqueous sodium potassium tartrate solution (300 mL). The mixture was stirred for 10 min and ethyl acetate (200 mL) was added. The mixture was then filtered through celite and extracted with ethyl acetate (2×150 mL). The combined organic extracts were washed with brine (150 mL), dried (magnesium sulfate), filtered and the solvent removed under vacuum to leave a crude oil. The oil was purified by flash column chromatography [SiO2; methanol-ethyl acetate-ammonium hydroxide (1:9:0)→(9:90:1)] to give the product as a yellow oil (1.1 g, 44%). IR νmax (Nujol)/cm−1 3310, 2925, 2855, 2725, 1886, 1666, 1604, 1563, 1535, 1458, 1411, 1378, 1366, 1340, 1321, 1301, 1278, 1242, 1217, 1201, 1169, 1139, 1128, 1114, 1048, 1000, 945, 924, 876, 844, 835, 812, 792, 751, 730, 699, 648, 619, 590, 562, 523 and 490. NMR δH (400 MHz; CDCl3) 7.42 (1H, m), 7.39 (1H, d, J 8.7 Hz), 7.19 (1H, dd, J 8.7 Hz, 2Hz), 6.17 (1H, m), 4.20 (2H, d, J 0.8 Hz), 3.97 (2H, t, J 5.8 Hz), 3.35 (2H, t, J 5.8 Hz), 1.63 (1H, br. s).

reactant | Ethyl 6-bromo-1-cyanomethylindole-2-carboxylate | 10 mmol, 3.1 g | BrC1=CC=C2C=C(N(C2=C1)CC#N)C(=O)OCC | C13H11BrN2O2
reactant | lithium aluminium hydride | 0.95 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium potassium tartrate | 300 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | 100 mL | CCOCC | C4H10O
product | 7-Bromo 1,2,3,4-tetrahydropyrazino[1,2-a]indole | 1.1 g, 44% | BrC=1C=CC=2C=C3N(C2C1)CCNC3 | C11H11BrN2
